US05750531
Step 2: 7-methyl-6,7-dihydrothieno[2,3-c]pyridine
To a solution of 2-(3-thienyl)chloroethane(20 g, 0.136 mol) prepared in the above Step 1 and anhydrous acetonitrile(350 ml) was added tin(IV) chloride(20 ml, 0.17 mol) at room temperature. The reaction mixture was heated to reflux for 16 hours and cooled, to which water was added to remove excess tin(IV) chloride. And then the reaction mixture was washed by dichloromethane. The water layer was separated and basified with aqueous K2CO3 solution under ice-cooling and then extracted with dichloromethane. The combined dichloromethane layers were dried over magnesium sulfate and concentrated to give 10.56 g of the titled compound. (Yield: 51%)

reactant | 2-(3-thienyl)chloroethane | 0.136 mol, 20 g | S1C=C(C=C1)CCCl | C6H7ClS
reactant | acetonitrile | 350 ml | C(C)#N | C2H3N
reactant | tin(IV) chloride | 0.17 mol, 20 ml | [Sn](Cl)(Cl)(Cl)Cl
solvent | water | O | H2O
product | 7-methyl-6,7-dihydrothieno[2,3-c]pyridine | 10.56 g, Yield: 51% | CC1NC=CC2=C1SC=C2 | C8H9NS
